*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X5R(-55to85[deg])/2.20e+00[uF]/10[V]
* Murata P/N :GRM155R61A225KE01
* Property : C = 2.20e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R61A225KE01 Port1 Port2
C01 Port1 N01 2.02e-06
R01 Port1 N01 2.27e+07
L02 N01 N02 1.28e-10
R03 N02 N03 6.90e-03
C04 N03 N04 4.59e-05
R04 N03 N04 1.64e+02
C05 N04 N05 1.09e-04
R05 N04 N05 4.74e+00
C06 N05 N06 1.04e-04
R06 N05 N06 5.30e-01
C07 N06 N07 9.99e-05
R07 N06 N07 5.82e-02
C08 N07 N08 6.48e-05
R08 N07 N08 9.54e-03
L09 N08 N09 1.58e-11
R09 N08 N09 1.86e-01
L10 N09 N10 3.92e-11
R10 N09 N10 5.50e-02
L11 N10 N11 1.58e-10
R11 N10 N11 2.59e-02
C12 N11 N12 1.20e-05
L12 N11 N12 1.72e-11
R12 N11 N12 1.77e-03
C13 N12 N13 5.88e-06
L13 N12 N13 1.97e-11
R13 N12 N13 2.45e-03
C14 N13 Port2 3.36e-12
L14 N13 Port2 7.01e-11
R14 N13 Port2 1.58e+01
.ENDS GRM155R61A225KE01
